US07138533B2
N-[5-(5-chloropentanoyl)-2,3-dihydro-1H-inden-2-yl]-acetamide
Using N-(2,3-dihydro-1H-inden-2-yl)acetamide and 5-chlorovaleryl chloride according to the same method as that of Reference Example 1, the title compound was obtained as colorless crystals having a melting, point of 106 to 108° C.

reactant | N-(2,3-dihydro-1H-inden-2-yl)acetamide | C1C(CC2=CC=CC=C12)NC(C)=O | C11H13NO
reactant | 5-chlorovaleryl chloride | ClCCCCC(=O)Cl | C5H8Cl2O
product | N-[5-(5-chloropentanoyl)-2,3-dihydro-1H-inden-2-yl]-acetamide | ClCCCCC(=O)C=1C=C2CC(CC2=CC1)NC(C)=O | C16H20ClNO2
